US07626020B2
[4-(1,3,4-oxadiazol-2-yl)phenyl]boronic acid
Tetrahydrofuran (250 g) was charged to a mixture of lithium granules (3.02 g) and biphenyl (0.01 g) under an argon atmosphere and the mixture cooled to −30° C. 2-Chlorotoluene (27.55 g) was slowly added at −30° C. The reaction was held at −30° C. for 6 hours and then cooled to −65° C. A mixture of 2-(4-bromophenyl)-1,3,4-oxadiazole (50.0 g) in THF (300 g) was slowly added at −65° C. The reaction was held at −65° C. for 30 minutes then a solution of n-hexyllithium (33% w/w in hexanes, 86 ml) was added at −65° C. The reaction was held at −65° C. for 30 minutes and then trimethylborate (48.7 g) was added at −65° C. The reaction was held at −65° C. for 10 minutes then methanol (55.3 g) was added followed by 4-methyl-2-pentanone (240 g). The reaction mixture was warmed and the low boiling solvents distilled off under vacuum to a maximum temperature of 55° C. The residual mixture was cooled to 0° C. and 10% w/w sulphuric acid (92 g) was added followed by water (92 g) whilst maintaining the temperature below 7° C. Product precipitated. The pH was adjusted to 6.5 by the addition of more 10% w/w sulphuric acid (85.3 g). The mixture was heated to 40° C. then cooled back to 5-10° C. Product was isolated and washed with THF (56 g) and water (60 g), yielding wet title compound (25.2 g, 60%).

reactant | lithium | [Li] | Li
reactant | 2-Chlorotoluene | 27.55 g | ClC1=C(C=CC=C1)C | C7H7Cl
reactant | 2-(4-bromophenyl)-1,3,4-oxadiazole | 50.0 g | BrC1=CC=C(C=C1)C=1OC=NN1 | C8H5BrN2O
reactant | n-hexyllithium | 86 ml | C(CCCCC)[Li]
reactant | trimethylborate | 48.7 g | COB(OC)OC | C3H9BO3
solvent | THF | 300 g | C1CCOC1 | C4H8O
catalyst | biphenyl | 0.01 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
solvent | Tetrahydrofuran | 250 g | O1CCCC1 | C4H8O
solvent | 4-methyl-2-pentanone | 240 g | CC(CC(C)=O)C | C6H12O
solvent | methanol | 55.3 g | CO | CH4O
product | [4-(1,3,4-oxadiazol-2-yl)phenyl]boronic acid | 25.2 g, 60% | O1C(=NN=C1)C1=CC=C(C=C1)B(O)O | C8H7BN2O3
